US07314877B2
2) Production of 6-(2,3-dihydro-1-benzofuran-5-yl)-4-methoxycarbonyl-2H-pyridazin-3-one
4-Carboxy-6-(2,3-dihydro-1-benzofuran-5-yl)-2H-pyridazin-3-one (5.9 g, 22.8 mmol) was suspended in methanol (100 mL), and thionyl chloride (3 g, 25.1 mmol) was added dropwise to the suspension under cooling with ice, followed by stirring for three hours at 80° C. The temperature of the reaction mixture was reduced to room temperature, and the solvent was removed under reduced pressure. Water was added to the residue under cooling on ice, and the formed precipitates were collected through filtration and washed with water, followed by drying, to thereby yield 4.90 g of the title compound as pale yellow micro-needles (78.8%).

reactant | 4-Carboxy-6-(2,3-dihydro-1-benzofuran-5-yl)-2H-pyridazin-3-one | 22.8 mmol, 5.9 g | C(=O)(O)C=1C(NN=C(C1)C=1C=CC2=C(CCO2)C1)=O | C13H10N2O4
reactant | thionyl chloride | 25.1 mmol, 3 g | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 100 mL | CO | CH4O
product | 6-(2,3-dihydro-1-benzofuran-5-yl)-4-methoxycarbonyl-2H-pyridazin-3-one | O1CCC2=C1C=CC(=C2)C=2C=C(C(NN2)=O)C(=O)OC | C14H12N2O4
